US07723538B2
4-{3-[5-(2-Methylsulfanyl-pyrimidin-4-yl)-thiophene-2-sulfonylamino]-benzoylamino}-benzoic acid, MS (ISP): m/e=525.2 (M−H), was prepared in analogy to example 1, steps A to D. Step C was performed using 5-(2-methylsulfanyl-pyrimidin-4-yl)-thiophene-2-sulfonyl chloride and yielded 4-{3-[5-(2-methylsulfanyl-pyrimidin-4-yl)-thiophene-2-sulfonylamino]-benzoylamino}-benzoic acid ethyl ester, which was hydrolyzed in step D.

reactant | 4-{3-[5-(2-Methylsulfanyl-pyrimidin-4-yl)-thiophene-2-sulfonylamino]-benzoylamino}-benzoic acid | CSC1=NC=CC(=N1)C1=CC=C(S1)S(=O)(=O)NC=1C=C(C(=O)NC2=CC=C(C(=O)O)C=C2)C=CC1 | C23H18N4O5S3
reactant | 5-(2-methylsulfanyl-pyrimidin-4-yl)-thiophene-2-sulfonyl chloride | CSC1=NC=CC(=N1)C1=CC=C(S1)S(=O)(=O)Cl | C9H7ClN2O2S3
product | 4-{3-[5-(2-methylsulfanyl-pyrimidin-4-yl)-thiophene-2-sulfonylamino]-benzoylamino}-benzoic acid ethyl ester | C(C)OC(C1=CC=C(C=C1)NC(C1=CC(=CC=C1)NS(=O)(=O)C=1SC(=CC1)C1=NC(=NC=C1)SC)=O)=O | C25H22N4O5S3
